US07186843B2
4-(R)-Phenylcarbonyl-1-[1-(R)-phenylethyl]-2-pyrrolidone
In an atmosphere of nitrogen, phenylmagnesium bride (3 mol/l diethyl ether solution, 15 ml) was added dropwise to tetrahydrofuran solution (50 ml) of N-methyl-N-methoxy-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxamide (2.49 g, 9.0 mmol), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was mixed with 1 mol/l hydrochloric acid (50 ml) under ice-cooling and then extracted with ethyl acetate (8 ml×2). The organic layer was washed with saturated brine (100 ml) and then dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure and the resulting residue was applied to a silica gel column chromatography. By eluting with n-hexane:ethyl acetate (1:1), 2.36 g (89%) of the title compound was obtained as a light yellow oil.

reactant | phenylmagnesium | C1(=CC=CC=C1)[Mg]
reactant | diethyl ether | 3 mol/l | C(C)OCC | C4H10O
reactant | N-methyl-N-methoxy-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxamide | 9.0 mmol, 2.49 g | CN(C(=O)[C@H]1CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)OC | C15H20N2O3
reactant | hydrochloric acid | 1 mol/l, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(R)-Phenylcarbonyl-1-[1-(R)-phenylethyl]-2-pyrrolidone | 2.36 g, 89% | C1(=CC=CC=C1)C(=O)[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C19H19NO2
